US09216980B2
Step 2: 5-(2-Methoxyethoxy)-3-(1-methyl-1H-pyrazol-4-yl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile
A mixture of 9-benzenesulfonyl-3-bromo-5-(2-methoxyethoxy)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile (35 mg, 0.07 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole (20 mg, 0.096 mmol), [1,1′-bis(diphenylphosphino) ferrocene]dichloropalladium(II) (7 mg) in 1N aqueous potassium fluoride solution (0.30 mL) and acetonitrile (0.30 mL) was degassed and heated under microwave irradiation at 130° C. for 30 minutes. The reaction mixture was allowed to cool to ambient temperature and ethyl acetate (5 mL) added. The solid was collected by filtration, washed with water (5 mL) and acetonitrile (5 mL) and left to air dry. The resultant solid was purified by flash chromatography (silica, 500 mg column, Si-SPE, 10% MeOH in DCM) and trituration with acetonitrile (2×0.25 mL) to afford the title compound as a grey solid (12 mg, 50%). 1H NMR (DMSO-D6, 400 MHz): 12.91 (s, 1H), 8.96 (d, J=2.2 Hz, 1H), 8.81 (d, J=2.2 Hz, 1H), 8.77 (s, 1H), 8.27 (s, 1H), 7.98 (s, 1H), 4.66-4.62 (m, 2H), 3.92 (s, 3H), 3.87-3.83 (m, 2H), 3.36 (s, 3H). LCMS (Method A): RT=7.66 min, M+H+=349.

reactant | 9-benzenesulfonyl-3-bromo-5-(2-methoxyethoxy)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 0.07 mmol, 35 mg | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=C1C=NC(=C3OCCOC)C#N)C=C(C=N2)Br | C20H15BrN4O4S
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | 0.096 mmol, 20 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
solvent | potassium fluoride | 1N, 0.30 mL | [F-].[K+]
solvent | acetonitrile | 0.30 mL | C(C)#N | C2H3N
catalyst | [1,1′-bis(diphenylphosphino) ferrocene]dichloropalladium(II) | 7 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(2-Methoxyethoxy)-3-(1-methyl-1H-pyrazol-4-yl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 12 mg, 50% | COCCOC1=C(N=CC2=C1C1=C(N2)N=CC(=C1)C=1C=NN(C1)C)C#N | C18H16N6O2
